2165-02-12 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - healthcare proxy addressed - patient named case manager [**Name (NI) 3081**] [**Name (NI) **].
   - patient is estranged from family, long history of incarceration.
   Friend [**Name (NI) 294**] [**Name (NI) **] came to visit tonight.
   Allergies:
   Statins-Hmg-Coa Reductase Inhibitors
   Unknown;
   Morphine
   Unknown;
   Citalopram
   Unknown;
   Thiazides
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-2-12**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**66**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 59 (56 - 70) bpm
   BP: 164/75(98) {124/24(57) - 164/90(101)} mmHg
   RR: 21 (9 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 87 kg (admission): 85 kg
   Height: 26 Inch
             Total In:
                                                                    723 mL
                                                                     77 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    483 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                    730 mL
                                                                    300 mL
   Urine:
                                                                    730 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -7 mL
                                                                   -223 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///32/
   GENERAL: Elderly male lying in bed in NAD. Alert and appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   NECK: No JVD.
   CARDIAC: RRR, III/[**Doctor First Name **] systolic murmur heard best in the Rt and Lt upper
   sternal borders.  No radiation to the carotids.
   LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. Anteriorly his lungs were clear
   bilaterally without wheezes or crackles.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No edema.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+  DP 2+ PT 2+
   Left:  Carotid 2+  DP 2+ PT 2+
   Labs / Radiology
   167 K/uL
   13.0 g/dL
   103 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.8 mEq/L
   18 mg/dL
   104 mEq/L
   142 mEq/L
   39.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2165-2-12**]  03:58 AM
   WBC
   6.9
   Hct
   39.7
   Plt
   167
   Cr
   0.9
   Glucose
   103
   Other labs: PT / PTT / INR:12.8/61.9/1.1, Mg++:2.1 mg/dL
   Imaging: Echo:
   The left atrium and right atrium are normal in cavity size. Left
   ventricular wall thicknesses and cavity size are normal. Images are
   suboptimal, but suggest possible mild hypokinesis of the basal inferior
   and inferolateral walls. The regamining segments contract well. Overall
   left ventricular systolic function is normal (LVEF>55%). The ascending
   aorta and descending thoracic aorta are mildly dilated. The aortic
   valve leaflets are moderately thickened. There is a minimally increased
   gradient consistent with minimal aortic valve stenosis. No aortic
   regurgitation is seen. The mitral valve leaflets are structurally
   normal. Mild (1+) mitral regurgitation is seen. There is borderline
   pulmonary artery systolic hypertension. There is a trivial/physiologic
   pericardial effusion.
   IMPRESSION: Normal biventricular cavity sizes with preserved global
   biventricular systolic function. Possible mild regional dysfunction of
   basal inferior and inferolateral wall. Minimal aortic valve stenosis.
   Dilated thoracic aorta.
   CARDIAC CATH:  [**2165-2-11**]
   LMCA: 90% stenosis at trifurcation
   LAD: slow flow without significant lesions distally
   LCx: slow flow without significant lesions distally
   Ramus: slow flow without significant lesions distally
   RCA: heavily-calcified with 70% stenosis mid vessel
   Microbiology: Urine cx: NGTD
   Assessment and Plan
   Mr. [**Known lastname 359**] is a 75 year-old male with COPD, hypertension, and hepatitis C
   transferred to the CCU from the cardiac cath lab due to his high risk
   with significant stenosis of his left main coronary artery while
   awaiting CABG.
   # CORONARIES:  The patient went for cardiac catheterization today and
   was seen to have 90% stenosis in his left main artery.  He has already
   had a NSTEMI at the OSH and is at significant risk for additional
   cardiac events.
   - Continue heparin gtt, aspirin 325 mg daily, and metoprolol 25 mg [**Hospital1 **].
   - CABG today.
   # PUMP/Hypertension:  The patient has normal systolic function, however
   was seen to have aortic stenosis during the catheterization.  He
   appears euvolemic on exam.
   - Continue enalapril 10 mg daily, metoprolol 25 mg [**Hospital1 **], and diltiazem
   120 mg daily.
   # RHYTHM:  He is currently in sinus rhythm.
   - Monitor on telemetry.
   # COPD:  Per the OSH records, his initial CXR there was clear, however
   he was treated for a community-acquired pneumonia with a 5 day course
   of levofloxacin (which finished today).  He was on a steroid taper.
   - CXR as above for pre-CABG workup.
   - Will DC steroids (given their effect on wound healing) as the
   patient
s respiratory symptoms have improved..
   - Continue nebs: Ipratropium q6h and albuterol q6h prn
   # BPH:
   - Continue terazosin 2 mg [**Hospital1 **].
   #  Depression:
   - Continue fluoxetine 20 mg daily and trazodone 150 mg qhs.
   #  GERD/esophageal dysmotility:
   - Continue home omeprazole and reglan.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2165-2-11**] 06:00 PM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: n/a
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: to CABG